US08957089B2
85.4 tert-Butyl[2-({1-[1-(4-chlorophenyl)cyclopropyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethyl]carbamate
1-[1-(4-chlorophenyl)cyclopropyl]-3,4-dihydroisoquinolin-7-ol (120 mg, 0.4 mmol) was added in several portions to a suspension of sodium hydrid (NaH, 1.3 mmol, activated by removal of oil) in dimethylformamide (DMF, 5 ml). 2-(Boc-amino)ethyl bromide was added after one hour and the resulting mixture stirred for 3 days at room temperature. DMF was evaporated, the residue diluted with ethylacetate and extracted with water. Removal of the solvents from the dried (Na2SO4) extract afforded an oil which was further purified by chromatography. Yield: 100 mg (0.23 mmol, 56%)

reactant | 1-[1-(4-chlorophenyl)cyclopropyl]-3,4-dihydroisoquinolin-7-ol | 0.4 mmol, 120 mg | ClC1=CC=C(C=C1)C1(CC1)C1=NCCC2=CC=C(C=C12)O | C18H16ClNO
reactant | sodium hydrid | 1.3 mmol | [H-].[Na+]
reactant | 2-(Boc-amino)ethyl bromide | C(=O)(OC(C)(C)C)NCCBr | C7H14BrNO2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | tert-Butyl[2-({1-[1-(4-chlorophenyl)cyclopropyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethyl]carbamate | C(C)(C)(C)OC(NCCOC1=CC=C2CCN=C(C2=C1)C1(CC1)C1=CC=C(C=C1)Cl)=O | C25H29ClN2O3
